US06846933B1
1-Isonicotinoyl-2-valeroylhydrazine was formed in the following way. This compound was prepared using the Acylation Method in the General Structural Outline for Diacylhydrazine Synthesis. To a heterogeneous mixture of isonicotinic acid hydrazide (1.38 g, 10.1 mmol) in a) boiling ether (15 mL) contained in a 100 mL round bottom flask fitted for reflux with a temperature-controlled heating mantle and reflux condenser and for magnetic stirring was added in several small portions over 5 minutes valeric anhydride (4.1 mL, D=0.92 g/mL, 3.77 g, 20.3 mmol) dissolved in ether (15 mL). After the addition was complete, the mixture was stirred and refluxed a further 20 minutes, then allowed to cool to room temperature and stand over night. The white micaceous crystalline solid thus obtained was filtered off by gravity and washed liberally with ether (40 mL) to give the 1-isonicotinoyl-2-valeroylhydrazine compound (1.73 g, 78%), mp 162° C. (from butyl acetate); IR ν 3192, 1599, 1551, 1493, 1400, 1119, 1085, 1062, 869, 846, 756 cm−1.

reactant | isonicotinic acid hydrazide | 10.1 mmol, 1.38 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | valeric anhydride | 20.3 mmol, 4.1 mL, 3.77 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 1-isonicotinoyl-2-valeroylhydrazine | 1.73 g, 78% | C(C1=CC=NC=C1)(=O)NNC(CCCC)=O | C11H15N3O2
